US07576215B2
[3-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]ACETIC ACID
Prepared using the procedure in Example 56 except using 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol instead of 4-(3-hydroxyphenyl)-8-(trifluoromethyl) quinolin-3-yl](phenyl)methanone and 3-bromomethyl-phenyl)-acetic acid ethyl ester as the halide. MS (ES) m/z 526.

reactant | 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | (phenyl)methanone | C1(=CC=CC=C1)C=O | C7H6O
reactant | acetic acid ethyl ester | C(C)OC(C)=O | C4H8O2
product | [3-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]ACETIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(OCC=2C=C(C=CC2)CC(=O)O)C=CC1)C(F)(F)F | C32H24F3NO3
